US08871760B2
To a stirring room temperature suspension of LiCl (0.84 g, 19.8 mmol) in dry acetonitrile (50 mL) was added trimethyl phosphonoacetate (4 mL, 24.75 mmol). The resulting mixture was stirred for 5 minutes, then TEA (2.76 mL, 19.8 mmol) was added. The reaction mixture was stirred for 10 minutes, and then a solution of (4-oxo-1-phenyl-butyl)-carbamic acid benzyl ester (16.5 mmol) in acetonitrile (15 mL) was added. The reaction mixture was stirred at room temperature for 18 hours, then diluted with diethyl ether and saturated aqueous NH4Cl. The organic layer was separated, washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure to an oil, which was chromatographed (5%-40% EtOAc in hexanes) to give 4.41 g (79%) of 4-benzyloxycarbonylamino-4-phenyl-butyric acid methyl ester as a colorless oil.

reactant | LiCl | 19.8 mmol, 0.84 g | [Li+].[Cl-]
reactant | trimethyl phosphonoacetate | 24.75 mmol, 4 mL | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | (4-oxo-1-phenyl-butyl)-carbamic acid benzyl ester | 16.5 mmol | C(C1=CC=CC=C1)OC(NC(CCC=O)C1=CC=CC=C1)=O | C18H19NO3
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | NH4Cl | [NH4+].[Cl-]
product | 4-benzyloxycarbonylamino-4-phenyl-butyric acid methyl ester | 4.41 g, 79% | COC(CCC(C1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)=O | C19H21NO4
